US06531474B1
(2-Butoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic Acid Allyl Ester
Prepared from 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester as described for 40 using n-butanol to afford 878 mg (29% yield) of the title compound (313 mg of anti diastereomer, 260 mg of syn diastereomer and 305 mg of the mixture). 1H-NMR (500 MHz, CDCl3) for anti diastereomer: δ (higher Rf) 0.89-0.96 (t, 3H), 1.32-1.40 (m, 2H), 1.54-1.63 (m, 2H), 2.37-2.41 (d, H), 2.98-3.04 (q, H), 3.55-3.60 (m, H), 3.77-3.82 (m, H), 4.19-4.22 (m, H), 4.58 (br, 2H), 5.03 (br, H), 5.23-5.40 (m, 3H), 5.87-5.93 (M, H), for syn diastereomer (lower Rf) 0.91-0.95 (t, 3H), 1.34-1.39 (m, 2H), 1.56-1.63 (m, 2H), 2.42-2.50 (m, H), 2.83-2.87 (m, H), 4.07-4.11 (t, H), 4.45-4.50 (m, 0.5H), 4.51-4.70 (m, 2.5H), 5.23-5.35 (m, 2H), 5.42-5.43 (d, H), 5.80-5.95 (m, H); LC-MS: m/z=258 (M+H+) for both of diastereomers.

reactant | 3-allyloxycarbonylamino-4-hydroxy-butyric acid tert-butyl ester | C(C)(C)(C)OC(CC(CO)NC(=O)OCC=C)=O | C12H21NO5
solvent | n-butanol | C(CCC)O | C4H10O
product | (2-Butoxy-5-oxo-tetrahydro-furan-3-yl)-carbamic Acid Allyl Ester | 878 mg, 29% yield | C(C=C)OC(NC1C(OC(C1)=O)OCCCC)=O | C12H19NO5
